US08193228B2
To 2,2-difluoro-1-(2-fluoro-4-hydroxyphenyl)ethanone (39.0 g, 0.2 mol) and Et3N (20.7 g, 0.2 mol) in CH2Cl2 at 0° C. was added Tf2O (58 g, 0.2 mol) dropwise while keeping the temperature at 0° C. The ice-salt bath was removed, and when the temperature rose to 25° C., a solution of saturated NaHCO3 was added. The aqueous phase was extracted with CH2Cl2 and the combined extracts were dried over MgSO4, and concentrated, and the residue was purified by column chromatography (PE/EA 10:1) to afford 4-(difluoroacetyl)-3-fluorophenyl trifluoromethanesulfonate as an brown oil.

reactant | 2,2-difluoro-1-(2-fluoro-4-hydroxyphenyl)ethanone | 0.2 mol, 39.0 g | FC(C(=O)C1=C(C=C(C=C1)O)F)F | C8H5F3O2
reactant | Et3N | 0.2 mol, 20.7 g | CCN(CC)CC | C6H15N
reactant | Tf2O | 0.2 mol, 58 g | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-(difluoroacetyl)-3-fluorophenyl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CC(=C(C=C1)C(C(F)F)=O)F)(F)F | C9H4F6O4S
